US07851411B2
1. Isopropyl (2Z)-3-hydroxy-2-cyano-4-ethyl-2-hexenoate
22.2 g (0.16 mol) of 2-ethylbutyryl chloride were added to a solution of 21 g (0.16 mol) of isopropyl cyanoacetate in CH2Cl2, and the reaction mixture was cooled to 0° C. At this temperature, with ice-cooling, 33.5 g (0.33 mol) of triethylamine were added dropwise, and the mixture was then stirred at 25° C. for 2 h. Following subsequent acidic hydrolysis, the organic phase was washed, dried and concentrated. Purification by customary methods gave 24.4 g of the title compound (68% of theory) as a colorless oil (b.p. 70-75° C./1.5 mbar).

reactant | 2-ethylbutyryl chloride | 0.16 mol, 22.2 g | C(C)C(C(=O)Cl)CC | C6H11ClO
reactant | isopropyl cyanoacetate | 0.16 mol, 21 g | C(#N)CC(=O)OC(C)C | C6H9NO2
reactant | triethylamine | 0.33 mol, 33.5 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Isopropyl (2Z)-3-hydroxy-2-cyano-4-ethyl-2-hexenoate | 24.4 g, 68% | O\C(=C(/C(=O)OC(C)C)\C#N)\C(CC)CC | C12H19NO3
